US05716950
2-Fluorobenzophenone (15.0 g) is dissolved in ethanol and sodium borohydride (3.8 g) is added in portions and the mixture is stirred for 20 hours. The reacted solution is concentrated under reduced pressure and extracted with chloroform and water to give crude (2-fluorophenyl)phenylmethanol (15.0 g) (quantitative) as colorless liquid.

reactant | 2-Fluorobenzophenone | 15.0 g | FC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9FO
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (2-fluorophenyl)phenylmethanol | 15.0 g | FC1=C(C=CC=C1)C(O)C1=CC=CC=C1 | C13H11FO
